US05026418
Preparation of 3-hydroxy-4-methyl-3-pyrimidin-5-yl-1-thien-2-ylpent-1-yne.
3-Hydroxy-4-methyl-3-pyrimidin-5-ylpent-1-yne (1 g, 5.7 mmol), prepared as in Stage (2), 2-iodothiophene (1.2 g, 5.7 mmol), triethylamine (2 ml, 14.5 mmol), copper-I-iodide (mg), and bis(triphenylphosphine)palladium-II-chloride (200 mg) were brought together in dry acetonitrile (55 ml) and the mixture was heated at 65° C. under nitrogen. After 1 hour, the mixture was cooled, quenched in dilute aqueous HCl, neutralised with dilute aqueous ammonia and extracted with ether (3×15 ml). The combined organic extracts were washed with dilute aqueous ammonia, water, and brine before being dried over magnesium sulphate and concentrated under reduced pressure to give an oil. Flash chromatography on silica eluting with hexane-ethyl acetate (1:3) gave the title compound as a solid of melting point 113°-14.5° C.

reactant | 3-Hydroxy-4-methyl-3-pyrimidin-5-ylpent-1-yne | 5.7 mmol, 1 g | OC(C#C)(C(C)C)C=1C=NC=NC1 | C10H12N2O
reactant | 2-iodothiophene | 5.7 mmol, 1.2 g | IC=1SC=CC1 | C4H3IS
reactant | triethylamine | 14.5 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
product | 3-hydroxy-4-methyl-3-pyrimidin-5-yl-1-thien-2-ylpent-1-yne | OC(C#CC=1SC=CC1)(C(C)C)C=1C=NC=NC1 | C14H14N2OS
